US05663431
5-Chloro-1,3-dihydro-3,3-diphenylindol-2-one
This compound is prepared by the method described in Helv. Chim. Acta, 1946, 29, 415-431, by the reaction of benzene with 5-chloroisatin in the presence of aluminum chloride. M.p.=281° C.

reactant | 5-chloroisatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 5-Chloro-1,3-dihydro-3,3-diphenylindol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H14ClNO
